US04420615
A. Ethyl 3-(2-Dimethylaminoethylamino)-3-imino-propionate
To a solution of N,N-dimethyl-1,2-diaminoethane (8.8 g, 0.1 mmol) in absolute ethanol (40 ml) is added ethyl 3-ethoxy-3-iminopropionate hydrochloride (20.0 g, 0.1 mmol). After stirring at ambient temperature for 16 hours, evaporated solvent and dissolved residue in water, made basic with sodium carbonate and extracted product into methylene chloride. This solution is evaporated to dryness to give 17 g of crude viscous title A product.

reactant | N,N-dimethyl-1,2-diaminoethane | 0.1 mmol, 8.8 g | CN(CCN)C | C4H12N2
reactant | ethyl 3-ethoxy-3-iminopropionate hydrochloride | 0.1 mmol, 20.0 g | Cl.C(C)OC(CC(=O)OCC)=N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl 3-(2-Dimethylaminoethylamino)-3-imino-propionate | CN(CCNC(CC(=O)OCC)=N)C | C9H19N3O2
